US07939539B2
To a solution of tert-butyl 3-[[1-[7-chloro-3-(3-methylbenzyl)-4-oxo-3,4-dihydroquinazolin-2-yl]-2-(dimethylamino)-2-oxoethyl](4-methylbenzoyl)amino]propylcarbamate, was added 20% solution of trifluoroacetic acid in methylene chloride at room temperature. The reaction mixture was stirred at room temperature for 2 h. The solvent was removed under reduced pressure. The crude product was purified by reverse phase HPLC to give N-(3-aminopropyl)-N-[1-[7-chloro-3-(3-methylbenzyl)-4-oxo-3,4-dihydroquinazolin-2-yl]-2-(dimethylamino)-2-oxoethyl]-4-methylbenzamide (9 mg) as TFA salt.

reactant | tert-butyl 3-[[1-[7-chloro-3-(3-methylbenzyl)-4-oxo-3,4-dihydroquinazolin-2-yl]-2-(dimethylamino)-2-oxoethyl](4-methylbenzoyl)amino]propylcarbamate | ClC1=CC=C2C(N(C(=NC2=C1)C(C(=O)N(C)C)N(CCCNC(OC(C)(C)C)=O)C(C1=CC=C(C=C1)C)=O)CC1=CC(=CC=C1)C)=O | C36H42ClN5O5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(3-aminopropyl)-N-[1-[7-chloro-3-(3-methylbenzyl)-4-oxo-3,4-dihydroquinazolin-2-yl]-2-(dimethylamino)-2-oxoethyl]-4-methylbenzamide | 9 mg | NCCCN(C(C1=CC=C(C=C1)C)=O)C(C(=O)N(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC(=CC=C1)C)=O)Cl | C31H34ClN5O3
